US05055223
A mixture of 11.6 g of p-pentylbenzoyl chloride, 11.1 g of p-hydroxyphenyl sulfur pentafluoride and 100 ml of pyridine is stirred it room temperature for 20 hours. Concentrating the mixture and working it up in the customary manner gives 4-(4-pentylbenzoyloxy)-phenylsulfur pentafluoride.

reactant | p-pentylbenzoyl chloride | 11.6 g | C(CCCC)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClO
reactant | p-hydroxyphenyl sulfur pentafluoride | 11.1 g | OC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H5F5OS
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-pentylbenzoyloxy)-phenylsulfur pentafluoride | C(CCCC)C1=CC=C(C(=O)OC2=CC=C(C=C2)S(F)(F)(F)(F)F)C=C1 | C18H19F5O2S
